US07230031B2
N-{7-[4-hydroxy-3-(tetrahydropyran-4-ylmethyl)phenoxy]-6-methylindan-4-yl}malonamic acid (Compound 53)
To ethyl N-{7-[4-hydroxy-3-(tetrahydropyran-4-ylmethyl)phenoxy]-6-methylindan-4-yl}malonamate (50 mg) were added methanol (10 mL) and a 1 mol/L aqueous solution of sodium hydroxide (8 mL), and the mixture was stirred under an argon atmosphere at 50° C. for 30 min. Adding water (20 mL), the reaction mixture was washed with diethyl ether (10 mL) twice. Adding 1 mol/L hydrochloric acid (20 mL) and brine (10 mL), the aqueous layer was extracted with ethyl acetate (10 mL) twice. The organic layer was dried over anhydrous magnesium sulfate and evaporated under reduced pressure to dryness to give the title compound (45 mg).

reactant | ethyl N-{7-[4-hydroxy-3-(tetrahydropyran-4-ylmethyl)phenoxy]-6-methylindan-4-yl}malonamate | 50 mg | OC1=C(C=C(OC=2C(=CC(=C3CCCC23)NC(CC(=O)OCC)=O)C)C=C1)CC1CCOCC1 | C27H33NO6
reactant | sodium hydroxide | 8 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | N-{7-[4-hydroxy-3-(tetrahydropyran-4-ylmethyl)phenoxy]-6-methylindan-4-yl}malonamic acid | 45 mg | OC1=C(C=C(OC=2C(=CC(=C3CCCC23)NC(CC(=O)O)=O)C)C=C1)CC1CCOCC1 | C25H29NO6
